US05002953
4-[2-(N-Methyl-N-(2-pyridyl)amino)ethoxy]benzaldehyde
The title compound was prepared from 2-(N-methyl-N-(2-pyridyl)amino)ethanol (8.9 g) and 4-fluorobenzaldehyde by a similar procedure to that described in Preparation 22.

reactant | 2-(N-methyl-N-(2-pyridyl)amino)ethanol | 8.9 g | CN(C1=NC=CC=C1)CCO | C8H12N2O
reactant | 4-fluorobenzaldehyde | FC1=CC=C(C=O)C=C1 | C7H5FO
product | 4-[2-(N-Methyl-N-(2-pyridyl)amino)ethoxy]benzaldehyde | CN(C1=NC=CC=C1)CCOC1=CC=C(C=O)C=C1 | C15H16N2O2
